US08404890B2
A related protocol is described in Japanese Unexamined Patent Application Publication No. 54-163516. Here, the polyester obtained from reacting crotonaldehyde and ketene is decomposed with hydrochloric acid in the presence of a urea compound. The resulting decomposition reaction mixture is filtered to yield crude sorbic acid. Aqueous sodium hydroxide solution is added to the crude sorbic acid to yield an aqueous sodium sorbate solution. The aqueous sodium sorbate solution is treated with activated carbon, neutralized, and cooled to crystallize the purified sorbic acid.

reactant | crotonaldehyde | C(\C=C\C)=O | C4H6O
reactant | ketene | C=C=O | C2H2O
reactant | hydrochloric acid | Cl | ClH
reactant | urea | NC(=O)N | CH4N2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sorbic acid | C(\C=C\C=C\C)(=O)O | C6H8O2
product | sodium sorbate | C(\C=C\C=C\C)(=O)[O-].[Na+] | InChI=1S/C6H8O2.Na/c1-2-3-4-5-6(7)8;/h2-5H,1H3,(H,7,8);/q;+1/p-1/b3-2+,5-4+;
